************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: ADDHX4
* View Name:     schematic
* Netlisted on:  Jun  4 07:37:49 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VDD:P
+        VSS:G
+        ExtVDD:P
+        ExtVSS:G

*.PIN VDD
*+    VSS
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    ADDHX4
* View Name:    schematic
************************************************************************

.SUBCKT ADDHX4 A B CO S VDD VSS
*.PININFO A:I B:I VDD:I VSS:I CO:O S:O
Mmn8 CO COb VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn7 COb B n4 VSS g45n1svt m=1 l=45n w=260n
Mmn6 n4 A VSS VSS g45n1svt m=1 l=45n w=260n
Mmn5 S Sb VSS VSS g45n1svt m=1 l=45n w=1.04u
Mmn3 Sb B n2 VSS g45n1svt m=1 l=45n w=260n
Mmn2 n2 n0 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn1 n1 B VSS VSS g45n1svt m=1 l=45n w=145n
Mmn4 Sb n1 n0 VSS g45n1svt m=1 l=45n w=260n
Mmn0 n0 A VSS VSS g45n1svt m=1 l=45n w=145n
Mmp8 CO COb VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp5 S Sb VDD VDD g45p1svt m=1 l=45n w=1.56u
Mmp2 n3 n0 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp3 Sb n1 n3 VDD g45p1svt m=1 l=45n w=390n
Mmp4 Sb B n0 VDD g45p1svt m=1 l=45n w=390n
Mmp1 n1 B VDD VDD g45p1svt m=1 l=45n w=215n
Mmp7 COb B VDD VDD g45p1svt m=1 l=45n w=390n
Mmp0 n0 A VDD VDD g45p1svt m=1 l=45n w=215n
Mmp6 COb A VDD VDD g45p1svt m=1 l=45n w=390n
.ENDS

